US07592347B2
Step 1: 1-Isopropyl-4-(piperidine-4-carbonyl)-piperazine dihydrochloride
1-tert-Butoxycarbonyl-piperidine-4-carboxylate (5 g) in DMF (60 ml) was treated with EDC (5.5 g) followed by HOAT (0.1 g). After 5 min, N-isopropylpiperazine (2.8 g) in DMF (5 ml) was added and the reaction was left stirring for 18 h. The reaction was then diluted with EtOAc (150 ml) and washed with saturated brine/sodium hydrogen carbonate (1:1, 200 ml) followed by brine (3×200 ml). The EtOAc layer was evaporated to near dryness and the residue treated with TFA/water (40 ml, 95:5) for 5 h prior to evaporation and re-evaporation from toluene (3×60 ml). The residue was taken up into a minimum volume of EtOAc and treated with HCl (30 ml, 2N solution in diethyl ether) for 1 h. The resulting sub-titled compound was filtered off and washed with diethyl ether before drying under vacuum (4.8 g).

reactant | 1-tert-Butoxycarbonyl-piperidine-4-carboxylate | 5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)[O-]
reactant | EDC | 5.5 g
reactant | HOAT | 0.1 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N-isopropylpiperazine | 2.8 g | C(C)(C)N1CCNCC1 | C7H16N2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
product | 1-Isopropyl-4-(piperidine-4-carbonyl)-piperazine dihydrochloride | Cl.Cl.C(C)(C)N1CCN(CC1)C(=O)C1CCNCC1 | InChI=1S/C13H25N3O.2ClH/c1-11(2)15-7-9-16(10-8-15)13(17)12-3-5-14-6-4-12;;/h11-12,14H,3-10H2,1-2H3;2*1H
